Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
===========================
Mr ___ is a ___ man with a history of HTN, T2DM, HLD, who
presents for evaluation for chest pain. Patient reports he had 
an
episode of chest pain ~2 weeks ago. He did not come in for
evaluation for his chest pain because he was going on vacation.
Pain lasted ~1.5 weeks. Substernal, radiating into the shoulder.
Associated with diaphoresis and some mild dyspnea. He went to 
see
his PCP earlier this week. He had an ECG that was read by a
cardiologist today and he was told to present immediately to the
ED. Code STEMI was activated and transferred to ___.

On initial exam, patient appeared comfortable. Denied any 
current
symptoms. He was evaluated by cardiology. Bedside echo showed
akinetic basal to mid infero and inferolateral wall. 
Hyperdynamic
anterior and anterior septum. ECG showed STE in inferior leads
and prominent Q waves, consistent with missed STEMI. He was
admitted to the cardiology service for further evaluation and
management of missed STEMI. 

On arrival to the floor, patient currently denies any chest 
pain,
dyspnea, palpitations, lightheadedness, dizziness, diaphoresis,
nausea, abdominal pain.

 
Past Medical History:
Type 2 diabetes mellitus with diabetic chronic kidney disease
Pure hypercholesterolemia 
Benign hypertension
 
Social History:
___
Family History:
Family history of ischemic heart disease and diabetes.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: Temp: 98.4 PO BP: 194/110 L Lying HR: 91 RR: 18 O2 sat:
97% O2 delivery: RA FSBG: 142 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowel sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: Warm. No clubbing, cyanosis, or edema. Pulses
DP/Radial 2+ bilaterally.
NEUROLOGIC: AAOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

Discharge Physical Exam:
==========================
24 HR Data (last updated ___ @ 1102)
    Temp: 98.2 (Tm 98.4), BP: 144/83 (144-194/83-110), HR: 73
(67-91), RR: 20 (___), O2 sat: 97% (96-97), O2 delivery: Ra,
Wt: 208.99 lb/94.8 kg  
Fluid Balance (last updated ___ @ 921) 
  Last 8 hours  Total cumulative 120ml
    IN: Total 120ml, PO Amt 120ml
    OUT:  Total 0ml
  Last 24 hours  Total cumulative 400ml
    IN: Total 400ml, PO Amt 400ml
    OUT:  Total 0ml  
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowel sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: Warm. No clubbing, cyanosis, or edema. Pulses
DP/Radial 2+ bilaterally.
NEUROLOGIC: AAOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.
 
Pertinent Results:
Admission Labs:

___ 07:35PM BLOOD WBC-8.5 RBC-5.04 Hgb-15.7 Hct-46.4 MCV-92 
MCH-31.2 MCHC-33.8 RDW-11.9 RDWSD-40.3 Plt ___
___ 07:35PM BLOOD Glucose-200* UreaN-11 Creat-0.8 Na-137 
K-3.9 Cl-96 HCO3-22 AnGap-19*
___ 07:35PM BLOOD cTropnT-0.12*
___ 10:04PM BLOOD cTropnT-0.12*

Discharge Labs:

___ 06:20AM BLOOD WBC-6.9 RBC-5.12 Hgb-15.9 Hct-47.5 MCV-93 
MCH-31.1 MCHC-33.5 RDW-11.9 RDWSD-40.9 Plt ___
___ 06:20AM BLOOD Glucose-189* UreaN-14 Creat-1.0 Na-136 
K-3.9 Cl-92* HCO3-28 AnGap-16
___ 06:20AM BLOOD Calcium-9.2 Phos-3.8 Mg-1.9

EKG:
prominent q-waves and mild ST elevations in inferior leads 
indicative of missed STEMI. 

Imaging:
=========================
TTE ___
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
moderate cavity dilation and mild
regional systolic dysfunction c/w CAD in a PDA distribution. 
Mild to moderate ischemic mitral
regurgitation. Mild aortic regurgitation. Indeterminate 
pulmonary artery systolic pressure. Mild
thoracic aortic dilation.

Echo Stress Test ___
CONCLUSION: Poor functional exercise capacity for age and 
gender. Uninterpretable ECG with no
symptoms to achieved treadmill stress. 2D echocardiographic 
evidence of prior inferior infarction
with no inducible ischemia to achieved low workload. 
Mild-moderate mitral regurgitation at rest.
Normal resting blood pressure with a normal blood pressure and a 
normal heart rate response to
achieved workload.

 
Brief Hospital Course:
====================
PATIENT SUMMARY:
====================
Mr ___ is a ___ man with many cardiac risk factors who is
admitted for medical management of a missed STEMI. He had 
crushing substernal CP radiating to his left shoulder about 2 
weeks prior to presentation. He did not seek medical care at 
that time due to an upcoming vacation. When he presented to 
___, he was evaluated by our STEMI team who did not recommend 
intervention due to the timeframe of the missed STMEI.
====================
ACUTE ISSUES:
====================

#Missed STEMI
Patient was ASA loaded prior to transfer. Per cardiology 
evaluation in
ED, there was no benefit to immediate revascularization. The 
patient had q waves and ST elevations in inferior leads 
indicating that territory was past the window of viability. We 
got a TTE and an echo stress test which showed no inducible 
ischemia in territories outside RCA.
Mr. ___ was started on a new GDMT regimen and counseled 
regarding the importance of adhering to the regimen.  

CHRONIC/STABLE ISSUES:
======================
#Type II diabetes mellitus
Patient recently discontinued glipizide. Is supposed to be on
empagliflozin and metformin, per most recent PCP ___ (CHA
records), but patient has not filled an active Rx. A1C was 
elevated on admission to 9.2%. We continued lantus 20U qhs with 
HISS and held trulicity during admission.

#HTN
We continued home amlodipine and HCTZ. We switched the patient 
from atenolol to metoprolol and uptitrated Lisinopril. 

#BPH
Continued home Tamsulosin 0.4mg daily

====================
TRANSITIONAL ISSUES:
====================
[ ] 
[ ] 
[ ]patient was not taking empagliflozin and metformin for DMII. 
Will defer to PCP for management. Patient may benefit from 
starting insulin regimen. A1C on admission was 9.2. 

For PCP:
- please monitor patient's BP on new regimen 
- please monitor patient's blood glucose. Please consider 
starting insulin. 

- New Meds:  Metoprolol 
- Stopped/Held Meds:  
- Changed Meds:  
- Follow-up appointments: PCP, cardiology 
- ___ Follow-up Labs Needed:  
- Incidental Findings:  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 20 Units Bedtime
2. Atorvastatin 80 mg PO DAILY 
3. amLODIPine 10 mg PO DAILY 
4. Atenolol 100 mg PO DAILY 
5. Hydrochlorothiazide 50 mg PO DAILY 
6. Lisinopril 40 mg PO DAILY 
7. Tamsulosin 0.4 mg PO DAILY 
8. Trulicity (dulaglutide) 0.75 mg/0.5 mL subcutaneous 1X/WEEK 
9. Doxazosin 1 mg PO HS 
10. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 200 mg PO DAILY  
2.  amLODIPine 10 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO DAILY  
5.  Doxazosin 1 mg PO HS  
6.  Hydrochlorothiazide 50 mg PO DAILY  
7.  Lisinopril 40 mg PO DAILY  
8.  Tamsulosin 0.4 mg PO DAILY  
9.  Trulicity (dulaglutide) 0.75 mg/0.5 mL subcutaneous 1X/WEEK  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
1) missed STEMI
1) HTN
3) DMII
4) HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you had a heart 
attack before your vacation.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You were evaluated with blood tests, EKGs, and a stress test. 
- You were started on a new heart medicine regimen to lower your 
risk of complications and future heart attacks

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below.   
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  
  

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___